US09144238B2
tert-butyl 4-{4-[5-(2,6-difluoro-3-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate
To a solution of tert-butyl 4-{4-[(hydroxyimino)methyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (1.278 g) in ethyl acetate (80 ml) was added, at room temperature, N-chlorosuccinimide (658 mg). After stirring at 60° C. for 30 min, 2,4-difluoro-3-vinylphenol (705 mg), potassium hydrogencarbonate (822 mg) and then one drop of water were added, at room temperature, to the reaction mixture. After stirring overnight at room temperature, the reaction mixture was admixed with ethyl acetate and water and extracted with ethyl acetate. The organic extracts were dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by chromatography. This gave tert-butyl 4-{4-[5-(2,6-difluoro-3-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate (658 mg).

reactant | tert-butyl 4-{4-[(hydroxyimino)methyl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | 1.278 g | ON=CC=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H21N3O3S
reactant | N-chlorosuccinimide | 658 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2,4-difluoro-3-vinylphenol | 705 mg | FC1=C(C=CC(=C1C=C)F)O | C8H6F2O
reactant | potassium hydrogencarbonate | 822 mg | C(O)([O-])=O.[K+]
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
catalyst | water | one drop | O | H2O
solvent | water | O | H2O
product | tert-butyl 4-{4-[5-(2,6-difluoro-3-hydroxyphenyl)-4,5-dihydro-1,2-oxazol-3-yl]-1,3-thiazol-2-yl}piperidine-1-carboxylate | FC1=C(C(=CC=C1O)F)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H25F2N3O4S
